US05037883
Using the Schotten-Bauman method of acylation, N-methacryloylalanine was prepared. Coupling of MA-Ala-OH (5.35 g; 0.034 mol) with HCl.Val-Ala-OMe (8.1 g) was performed in dimethylformamide by means of dicyclohexylcarbodiimide (7.0 g) in the presence of triethylamine (3.4 g). Recrystalization from CH2Cl2 /pentene gave 9.5 g of MA-Ala-Val-Ala-OMe.

reactant | N-methacryloylalanine | C(C(=C)C)(=O)N[C@@H](C)C(=O)O | C7H11NO3
reactant | Ala-OH | 0.034 mol, 5.35 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | HCl | Cl | ClH
reactant | Val-Ala-OMe | 8.1 g | N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)OC | C9H18N2O3
reactant | dicyclohexylcarbodiimide | 7.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | 3.4 g | C(C)N(CC)CC | C6H15N
product | Ala-Val-Ala-OMe | N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)OC | C12H23N3O4
